US05494908
3-[[2-(4-Morpholinyl)ethyl]methylamino]-1,2-benzisoxazol-6-ol
6-Methoxy-N-methyl-N-[2-(4-morpholinyl)ethyl]-1,2-benzisoxazol-3-amine (7.0 g) was dissolved in 48% hydrobromic acid (130 ml) and heated to reflux under nitrogen for 3 hours. The reaction was cooled to room temperature, neutralized with saturated sodium carbonate (Na2CO3) extracted with ethyl acetate, dried over MgSO4 and concentrated in vacuo. Flash chromatography (silica gel) eluting with 2:1 heptane/acetone provided the product (6.0 g), m.p. 91°-92° C.

reactant | 6-Methoxy-N-methyl-N-[2-(4-morpholinyl)ethyl]-1,2-benzisoxazol-3-amine | 7.0 g | COC1=CC2=C(C(=NO2)N(CCN2CCOCC2)C)C=C1 | C15H21N3O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrobromic acid | 130 ml | Br | BrH
product | 3-[[2-(4-Morpholinyl)ethyl]methylamino]-1,2-benzisoxazol-6-ol | 6.0 g | N1(CCOCC1)CCN(C1=NOC2=C1C=CC(=C2)O)C | C14H19N3O3
